US06458780B1
c) 1-(Ethoxycarbonyloxy)ethyl(1S,5R,6S)-2-(7-acetylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (A Mixture of Diastereomers)
Sodium(1S,5R,6S)-2-(7-acetylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (71.9 mg) was dissolved in 2.0 ml of DMF. 1-(Ethoxycarbonyloxy)ethyl iodide (66.3 mg) was added to the solution in an argon atmosphere at −20° C. The mixture was stirred for 2 hr while raising the temperature to −10° C. Ethyl acetate (20 ml) was added to the reaction solution. The mixture was extracted twice, followed by washing twice with 10 ml of semisaturated brine. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under the reduced pressure to a volume of 2 ml. The residue was purified by column chromatography on silica gel (chloroform:methanol=15:1) and Sephadex LH-20 (dichloromethane:methanol=1:1) in that order to give 57.4 mg of the title compound.

reactant | Sodium(1S,5R,6S)-2-(7-acetylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 71.9 mg | C(C)(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C.[Na+]
reactant | 1-(Ethoxycarbonyloxy)ethyl iodide | 66.3 mg | C(C)OC(=O)OC(C)I | C5H9IO3
reactant | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | 1-(Ethoxycarbonyloxy)ethyl(1S,5R,6S)-2-(7-acetylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 57.4 mg | C(C)(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OC(C)OC(=O)OCC)C([C@@H]1[C@@H](C)O)=O)C | C22H25N3O8S
